US06514964B1
Step C: Methyl 2-{8-carbonylamino-2-[N-(3-(1,2,3,4-tetrahydropyridino[2,3-b]pyridin-7-yl)propyl) carbamoyl]-1H,3H,4H,5H-benzo[e]azepin-5-yl}acetate
To a stirring solution of methyl 2-(8-{[(4-nitro phenyl)methoxy]carbonylamino}-2-[N-(3-(1,2,3,4-tetrahydropyridino[2,3-b]pyridin-7-yl)propyl) carbamoyl]-1H,3H,4H,5H-benzo[e]azepin-5-yl)acetate in ethanol (0.05 M) at room temperature was added 10% Pd/C (0.10M). After stirring 4 hr, under hydrogen, at balloon pressure, the reaction mixture was filtered through celite. The reaction solvent was removed by rotary evaporation. The residue was purified by flash chromatography (50% EtOAc/Hexane). EI-MS m/z 480 (M+H)+.

reactant | methyl 2-(8-{[(4-nitro phenyl)methoxy]carbonylamino}-2-[N-(3-(1,2,3,4-tetrahydropyridino[2,3-b]pyridin-7-yl)propyl) carbamoyl]-1H,3H,4H,5H-benzo[e]azepin-5-yl)acetate | [N+](=O)([O-])C1=CC=C(C=C1)COC(=O)NC1=CC2=C(C(CCN(C2)C(NCCCC2=CC=C3C(=N2)NCCC3)=O)CC(=O)OC)C=C1 | C33H38N6O7
solvent | ethanol | 0.05 M | C(C)O | C2H6O
catalyst | Pd/C | 0.10M | [Pd] | Pd
product | Methyl 2-{8-carbonylamino-2-[N-(3-(1,2,3,4-tetrahydropyridino[2,3-b]pyridin-7-yl)propyl) carbamoyl]-1H,3H,4H,5H-benzo[e]azepin-5-yl}acetate | C(=O)=NC1=CC2=C(C(CCN(C2)C(NCCCC2=CC=C3C(=N2)NCCC3)=O)CC(=O)OC)C=C1 | C26H31N5O4
